data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=CC=C(C=C1)C2CC[C:20](CC2)([OH:10])[OH+:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>C(CO)[OH:21].CC1=CC=C(C=C1)C2CC[C:20](=[OH+:10])CC2.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[C-:10]#CCC1=CC=CC=C1>>[H:20][C:10]#CCC1=CC=CC=C1.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:20]1(C[OH+:21]1)C.[Br-:10]>>C[C:20](C)(C[OH:21])[Br:10] 10=20;20,21=21
C[N:10](C)CCCCOS(=O)(=O)C(F)(F)F.[CH3:20][I:21]>>C[N+:10](C)([CH3:20])CCCCOS(=O)(=O)C(F)(F)F.[I-:21] 10=20;20,21=21
[H:20][N+:21]1(CCOCC1)C2(CCCC2)[O-].C1COCC[NH:10]1.C1=CC=CC=C1>>[H:20][NH+:10]1CCOCC1.C1CCC(C1)([N:21]2CCOCC2)[O-].C1=CC=CC=C1 10=20;20,21=21
C[N:10](C)C.[CH3:20][I:21]>>C[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
CC(C)[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)C.CC(=[C:11]=[CH2:10])[Si](C)(C)C>>CC(C)[C:20](C)([CH2:10][C+:11]=C(C)[Si](C)(C)C)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
[H:20][CH:21]([CH+:22]C)Br.CC[OH:10]>>[H:20][OH+:10]CC.C[CH:22]=[CH:21]Br 10=20;20,21=21,22
[H:20][CH:21](C#N)[N+](=O)[O-].CC[O-:10]>>[H:20][O:10]CC.[CH-:21](C#N)[N+](=O)[O-] 10=20;20,21=21
[H:20][NH2+:21]C1=C(C=C(C=C1)C(=O)C2=CC=CC=C2)N.CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C(=O)C1([NH2+]C4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)N)[O-:10])C.CCO.[Cl-]>>[H:20][O:10]C1(C(=O)C2=C(CC1(C)C)N(N=C2)C3=CC=C(C=C3)F)[NH2+]C4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)N.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)[NH2:21])N.CCO.[Cl-] 10=20;20,21=21
[H:20][NH2+:21]C.CN1C2[CH:10]=[C:11](CCC2(CC1=O)C3=CC(=C(C=C3)OC)OC)[O-:12].O>>[H:20][CH:10]1C2C(CC[C:11]1=[O:12])(CC(=O)N2C)C3=CC(=C(C=C3)OC)OC.C[NH2:21].O 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1CCOC1(C2=CC=CC=C2)C(C)Br.[Br-:10]>>CC(C1(OCC[O:21]1)C2=CC=CC=C2)Br.[H:20][Br:10] 10=20;20,21=21
[H:20][O:21]CC.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC[O-:21] 10=20;20,21=21
[NH3:10].[Cu:20](I)I>>[NH3+:10][Cu-:20](I)I 10=20,
[Li:11][CH2:10]C=CC.C1[CH2:20][O:21]1>>[Li+:11].CC=C[CH2:10][CH2:20]C[O-:21] 10,11=10,20;20,21=21
CN(C)[C:20]1(OCCC[O:21]1)[O-:10]>>CN(C)[C:20](=[O:10])OCCC[O-:21] 10=20;20,21=21
CCC1=C(C=C(C=C1)[CH:20]=[O:21])O.COC(=O)C[CH:10]=[C:11]([O-:12])OC.CO.C[OH+][Na]>>CCC1=C(C=C(C=C1)[CH:20]([CH:10](CC(=O)OC)[C:11](=[O:12])OC)[O-:21])O.CO.C[OH+][Na] 10,11=10,20;20,21=21;12=11
[H:20][O:21]O.[OH:10][Na].B1(OC2=C(O1)C=CC=C2)C(CC)C(C)C>>[H:20][OH+:10][Na].O[O-:21].B1(OC2=C(O1)C=CC=C2)C(CC)C(C)C 10=20;20,21=21
[Li:20][O+]=C(C)C1=CC=CC=C1.[OH-:10].CNOC>>[Li-:20]([OH:10])[O+]=C(C)C1=CC=CC=C1.CNOC 10=20,
C[OH:10].C1C(CN(C1[C:20](=[OH+:21])O)C(=O)OCC2=CC=CC=C2)O.OS(=O)(=O)[O-]>>C[OH+:10][C:20](C1CC(CN1C(=O)OCC2=CC=CC=C2)O)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](C)(C)C=C.CC#[C-:10]>>[H:20][C:10]#CC.C[N:21](C)C=C 10=20;20,21=21
C[Si](C)(C)CC=C[CH:11]=[CH2:10].C1C[CH:20]=[N+:21](C1)CC=CCOCC2=CC=CC=C2>>C[Si](C)(C)CC=C[CH+:11][CH2:10][CH:20]1CCC[N:21]1CC=CCOCC2=CC=CC=C2 10,11=10,20;20,21=21
[H:20][OH2+:21].CC#CC(C)[N-:10]C>>[H:20][N:10](C)C(C)C#CC.[OH2:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)C(F)(F)F)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
C1=CC=NC(=C1)C[S:10](=[O:11])C2=NC3=C(N2)C=CC=C3>>C1=CC=NC(=C1)C[S+:10](C2=NC3=C(N2)C=CC=C3)[O-:11] 10,11=11
CCCO[C:20](CC(C1=CC=CC=C1)[NH3+])([OH2+:21])[OH:10].CCCO.OS(=O)(=O)[O-]>>CCCO[C:20](=[OH+:10])CC(C1=CC=CC=C1)[NH3+].[OH2:21].CCCO.OS(=O)(=O)[O-] 10=20;20,21=21
[BH2-:11]([CH:10](C)C(C)C)[O:20][OH:21]>>[BH2:11][O:20][CH:10](C)C(C)C.[OH-:21] 10,11=10,20;20,21=21
C[C:20](O)([O-:10])[O:21]C>>C[C:20](=[O:10])O.C[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC=C(C=C1)C2CCC3(CC2)OCC[O:10]3.CC(=O)C.O>>[H:20][O+:10]1CCOC12CCC(CC2)C3=CC=C(C=C3)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC(=O)C.O 10=20;20,21=21
CC(=O)NC1=CC=C(C=C1)S(=O)(=O)N[N:21]=[N:20][C-:10](C2=CC=CC=C2)C(=O)OC3C4=C(C=CC=C4)N(C3=O)CC5=CC=CC=C5.C1CCC2=[NH+]CCCN2CC1>>CC(=O)NC1=CC=C(C=C1)S(=O)(=O)N[N-:21][N:20]=[C:10](C2=CC=CC=C2)C(=O)OC3C4=C(C=CC=C4)N(C3=O)CC5=CC=CC=C5.C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
C1C2C3C(O3)C(C(O1)O2)[O-:10].C1=CC=C(C=C1)[CH2:20][Br:21].[HH].[Na+]>>C1C2C3C(O3)C(C(O1)O2)[O:10][CH2:20]C4=CC=CC=C4.[Br-:21].[HH].[Na+] 10=20;20,21=21
[H:20][O+:21]1CCOC1(CC(=O)OCC)CC(=O)OCC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCOC(=O)CC1(OCC[O:21]1)CC(=O)OCC.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21]=CC1CCC(=C(C1(C)C)C)C2=CC=CC=C2.[OH2:10]>>[H:20][OH2+:10].CC1=C(CCC(C1(C)C)C=[O:21])C2=CC=CC=C2 10=20;20,21=21
CCOC(=O)C(CCC[CH:20](C(=O)OCC)[Br:21])Br.[C-:10]#N>>CCOC(=O)[CH:20](CCCC(C(=O)OCC)Br)[C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][N:21]=[N+]=[N-].COC(=[N:10]N(C(=O)OC)[P+](C)(C)C)[O-]>>[H:20][N+:10](=C([O-])OC)N(C(=O)OC)[P+](C)(C)C.[N-:21]=[N+]=[N-] 10=20;20,21=21
[H:20][NH+:21]1CCCCC1.C1=C(C=C(C(=C1)NC(=O)CNC(=O)[O-:10])I)Cl.C=C1C2=C(C=CC=C2)C3=CC=CC=C13>>[H:20][O:10]C(=O)NCC(=O)NC1=CC=C(C=C1I)Cl.C1CC[NH:21]CC1.C=C1C2=C(C=CC=C2)C3=CC=CC=C13 10=20;20,21=21
